US04668719
Potassium pyroantimonate and tin tetrachloride were mixed so that molar ratio of antimony and tin was 1:2 and sufficient hydrochloric acid was added so that acid the concentration of the aqueous solution was 2N. In accordance with the procedure of Example 1 there was obtained a composite acid tin antimonate (1:1.8) containing antimonic acid and stannic acid in a molar ratio of 1:1.8.

reactant | Potassium pyroantimonate | O[Sb](=O)([O-])O[Sb](=O)(O)[O-].[K+].[K+]
reactant | tin tetrachloride | [Sn](Cl)(Cl)(Cl)Cl
reactant | antimony | [Sb] | Sb
reactant | tin | [Sn] | Sn
reactant | hydrochloric acid | Cl | ClH
product | tin antimonate | [Sb]([O-])([O-])([O-])=O.[Sn+4].[Sb]([O-])([O-])([O-])=O.[Sb]([O-])([O-])([O-])=O.[Sb]([O-])([O-])([O-])=O.[Sn+4].[Sn+4] | InChI=1S/16O.4Sb.3Sn/q;;;;12*-1;;;;;3*+4
